US05604229
(3) 2-(4-Decylphenyl)-2-nitro-1,3-propanediol
4-Decylphenylnitromethane (555 mg) was dissolved in ethanol (5 ml) and thereto were added a 1N aqueous sodium hydroxide solution (0.02 ml) and 37% formalin (0.45 ml). The mixture was heated at 50° C. for 6 hours. The solvent was distilled away and the residue was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was distilled away and the residue was crystallized from hexane to give 1.75 g of the colorless, scale-like subject compound.

reactant | 4-Decylphenylnitromethane | 555 mg | C(CCCCCCCCC)C1=CC=C(C=C1)C[N+](=O)[O-] | C17H27NO2
reactant | sodium hydroxide | 1N, 0.02 ml | [OH-].[Na+]
reactant | formalin | 0.45 ml | C=O | CH2O
reactant | ethanol | 5 ml | C(C)O | C2H6O
product | 2-(4-Decylphenyl)-2-nitro-1,3-propanediol | C(CCCCCCCCC)C1=CC=C(C=C1)C(CO)(CO)[N+](=O)[O-] | C19H31NO4
